US20010020034A1
To a solution of 5-amino-3-pentylsulfanyl-isothiazole-4-carboxylic acid amide (2.2 g, 9.0 mmol) in 36 mL of tetrahydrofuran was added pyridine (0.90 g, 11 mmol) and phenyl chloroformate (1.7 g, 11 mmol). After stirring for 3 hours, additional pyridine (0.15 g, 1.9 mmol) and phenyl chloroformate (0.29 g, 1.9 mmol) was added, and the mixture was stirred at room temperature overnight. The mixture was concentrated in vacuo, diluted with water and extracted 2× with CH2Cl2, 1× with ethyl acetate. The combined organic layers were washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was triturated for 12 hours with ether-hexane, and the resulting solids were collected and dried in vacuo, affording 2.6 g (79%) of (4-carbamoyl-3-pentylsulfanyl-isothiazol-5-yl)-carbamic acid phenyl ester as a colorless solid. 1H NMR (300 MHz, CDCl3) δ 7.41 (t, 2 H, J=7.3 Hz), 7.29-7.20 (m, 3H), 3.31 (t, 2H, J=7.3 Hz), 1.72 (m, 2H), 1.50-1.30 (m, 4H), 0.90 (t, 3H, J=7.1 Hz) ppm; MS (APCl, m/z): 366 [M+H]+.

reactant | 5-amino-3-pentylsulfanyl-isothiazole-4-carboxylic acid amide | 9.0 mmol, 2.2 g | NC1=C(C(=NS1)SCCCCC)C(=O)N | C9H15N3OS2
reactant | pyridine | 11 mmol, 0.90 g | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 11 mmol, 1.7 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyridine | 1.9 mmol, 0.15 g | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 1.9 mmol, 0.29 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | tetrahydrofuran | 36 mL | O1CCCC1 | C4H8O
product | (4-carbamoyl-3-pentylsulfanyl-isothiazol-5-yl)-carbamic acid phenyl ester | 2.6 g, 79% | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)SCCCCC)C(N)=O)=O | C16H19N3O3S2
